US06054605
2,3-dichloro-6-trifluoromethylbenzonitrile (Compound No. 31)
409 g of 2,3-dichloro-6-trifluoromethylbenzamide was dissolved in 2 liters of dioxane, and 263 g of pyridine was further added to the resultant solution. To this solution, 349 g of trifluoroacetic anhydride was added dropwise over 30 minutes while maintaining the temperature from 7 to 10° C. After stirring the solution for 2 hours at 25° C., the reaction mixture was poured into ice water. The precipitated crystals generated were then collected by filtration and were dissolved in ethyl acetate. The solution was then washed with water and saturated saline solution in series and dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure, and the crude product obtained was washed with n-hexane and filtered to obtain 358 g of the title compound(mp. 53-54° C.).

reactant | 2,3-dichloro-6-trifluoromethylbenzamide | 409 g | ClC1=C(C(=O)N)C(=CC=C1Cl)C(F)(F)F | C8H4Cl2F3NO
reactant | pyridine | 263 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 349 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane | 2 liters | O1CCOCC1 | C4H8O2
product | 2,3-dichloro-6-trifluoromethylbenzonitrile | 358 g | ClC1=C(C#N)C(=CC=C1Cl)C(F)(F)F | C8H2Cl2F3N
